US05763450
1.86 g of 3-aminophenyl-boric acid hemisulphate are suspended are suspended in 20 ml of water and treated with 5 ml of a 2N sodium hydroxide solution. The clear, yellowish solution is treated dropwise while cooling with ice with a solution of monoethyl malonyl chloride in 7 ml of tetrahydrofuran. The mixture is stirred at room temperature for a further 15 min. and the precipitate is filtered off under suction. It is recrystallized in 50 ml of water. 1.12 g (45%) of 3-(2-ethoxycarbonylacetylamino)-phenylboric acid are isolated. M.p. 247°.

reactant | 3-aminophenyl-boric acid hemisulphate | 1.86 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)OB(O)O.NC=1C=C(C=CC1)OB(O)O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | monoethyl malonyl chloride | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 3-(2-ethoxycarbonylacetylamino)-phenylboric acid | 1.12 g, 45% | C(C)OC(=O)CC(=O)NC=1C=C(C=CC1)OB(O)O | C11H14BNO6
